US09029399B2
Preparation of Intermediate 6-Bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid (I-27c)
Using analogous reagents and reaction conditions as described in Example 25 for the preparation of I-25b above, 6-bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester (I-27b: 0.3 g, 1.0 mmol) in THF (10 mL) was hydrolyzed with LiOH (87 mg, 2.04 mmol) and water (2 mL) to afford 250 mg of the product (yield 88%)

reactant | 6-bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester | 1.0 mmol, 0.3 g | COC(=O)C1=CC2=C(S1)C=C(C(=C2)F)Br | C10H6BrFO2S
reactant | LiOH | 2.04 mmol, 87 mg | [Li+].[OH-]
reactant | water | 2 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Bromo-5-fluoro-benzo[b]thiophene-2-carboxylic acid | 250 mg, yield 88% | BrC=1C(=CC2=C(SC(=C2)C(=O)O)C1)F | C9H4BrFO2S
